US08283353B2
4′-{[4-(1,5-dioxaspiro[5.5]undec-9-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.5 g), propane-1,3-diol (0.12 g), p-toluenesulfonic acid monohydrate (0.01 g) and toluene (15 mL) was subjected to an azeotropic dehydration reaction by stirring at 110° C. for 16 hr in a reaction vessel equipped with a Dean-stark trap. The reaction mixture was concentrated, and the obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.56 g, 100%).

reactant | 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.5 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)=O | C28H27N5O2
reactant | propane-1,3-diol | 0.12 g | C(CCO)O | C3H8O2
catalyst | p-toluenesulfonic acid monohydrate | 0.01 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-{[4-(1,5-dioxaspiro[5.5]undec-9-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.56 g, 100% | O1CCCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN1 | C31H33N5O3
